US09210927B2
Step 1. (E)-2-Amino-1-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indol-1-yl)ethanone (BI23)
To a stirred solution of (E)-tert-butyl 2-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indol-1-yl)-2-oxoethylcarbamate (0.05 g, 0.09 mmol) in CH2Cl2 (5.0 mL) was added TFA (0.01 mL) and the reaction was stirred at ambient temperature for 16 h. The reaction mixture was diluted with CH2Cl2 and washed with saturated NaHCO3 solution, water and brine solution. The separated CH2Cl2 layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude title compound which was used in the next step without further purification (50 mg).

reactant | (E)-tert-butyl 2-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indol-1-yl)-2-oxoethylcarbamate | 0.09 mmol, 0.05 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2C=CN(C2=CC1)C(CNC(OC(C)(C)C)=O)=O)C(F)(F)F | C25H22Cl2F4N2O3
reactant | TFA | 0.01 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-Amino-1-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indol-1-yl)ethanone | NCC(=O)N1C=CC2=CC(=CC=C12)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)F)Cl | C20H14Cl2F4N2O
